US05847166
An oven dried Schlenk equipped with a teflon coated stir bar was charged with Na(Ot-Bu) (97 mg, 1.00 mmol), Pd(OAc)2 (5.6 mg, 0.025 mmol), and Tol-BINAP (20.4 mg, 0.030 mmol). The Schlenk was evacuated, back-filled with argon, and charged with toluene (3 mL) and 4-t-butyl bromobenzene (87 μL, 0.50 mmol). The mixture was heated at 100° C. for 40 h at which time the mixture was cooled to room temperature and diethyl ether (20 mL) and water (20 mL) were added. The organic layer was separated, washed with brine (20 mL), dried over anhydrous MgSO4, and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel (99/1 hexaneethyl acetate) to afford 4-t-butylphenyl t-butyl ether as a yellow oil (59 mg, 53% yield).

reactant | Tol-BINAP | 0.030 mmol, 20.4 mg | CC1=CC=C(C=C1)P(C2=CC=C(C=C2)C)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=C(C=C7)C)C8=CC=C(C=C8)C | C48H40P2
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-t-butyl bromobenzene | 0.50 mmol, 87 μL | C(C)(C)(C)C1=CC=C(C=C1)Br | C10H13Br
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
catalyst | Pd(OAc)2 | 0.025 mmol, 5.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 20 mL | O | H2O
product | 4-t-butylphenyl t-butyl ether | 59 mg, 53% yield | C(C)(C)(C)OC1=CC=C(C=C1)C(C)(C)C | C14H22O
